* INA241A_bidirectional.lib -- bidirectional current-sense model for KiCad/ngspice
* Pin order matches KiCad symbol: 1(-) 2(GND) 3(REF2) 4(GND) 5(out) 6(V+) 7(REF1) 8(+)
* Based on INA241A-Q1 datasheet specifications

********** PARAMETERS **********
.param pi=3.14159265359
.param bw=1e6          ; bandwidth 1 MHz (from datasheet)
.param sr=5e6          ; slew rate 5 V/us (from datasheet) 
.param vs_min=2.7      ; minimum supply voltage
.param vs_max=5.5      ; maximum supply voltage
.param vs_nom=5.0      ; nominal supply voltage
.param vos_max=25e-6   ; 25µV max offset voltage (typical from datasheet)
.param ib_max=0.5e-9   ; 0.5nA max input bias current (from datasheet)
.param cmrr_min=120    ; 120 dB min CMRR (from datasheet)
.param psrr_min=100    ; 100 dB min PSRR
.param voh_sat=0.2     ; output high saturation (Vs - 0.2V)
.param vol_sat=0.2     ; output low saturation (0.2V)

********** SUBCIRCUITS (GAIN VARIANTS) **********
* Gain = 10 V/V (Version A1)
.subckt INA241A1 INN GND1 REF2 GND2 OUT VCC REF1 INP
.param gain=10

* Input stage modeling
* Offset voltage source
VOS INP_INT INP DC {vos_max}

* Input bias currents
IB1 INP_INT 0 DC {ib_max}  
IB2 INN 0 DC {ib_max}

* Common-mode and differential-mode processing
* REF voltage is the average of REF1 and REF2
EREF VREF 0 VALUE={(V(REF1)+V(REF2))/2}

* Differential amplification with reference centering
* Output = Gain × (V+ - V-) + VREF
EDIFF VDIFF 0 VALUE={gain*V(INP_INT,INN) + V(VREF)}

* Bandwidth limitation (single-pole rolloff at 1MHz)
RBWL VDIFF VBWL 159.15  ; R = 1/(2*pi*f*C) for 1MHz with 1pF
CBWL VBWL 0 1p

* Slew rate limiting
* Using voltage-controlled current source method
GSLEW VBWL VSLEW VALUE={LIMIT((V(VBWL)-V(VSLEW))*1e9, -sr*1e-9, sr*1e-9)}
CSLEW VSLEW 0 1n

* Output stage with supply-dependent saturation
EOUT OUT 0 VALUE={LIMIT(V(VSLEW), V(VCC)*vol_sat/vs_nom, V(VCC)-voh_sat)}

* Supply and ground connections
RCC VCC 0 1e12      ; High resistance to prevent floating
RGND1 GND1 0 1m     ; Low resistance ground connection  
RGND2 GND2 0 1m     ; Low resistance ground connection
RREF1 REF1 0 1e12   ; High resistance to prevent floating
RREF2 REF2 0 1e12   ; High resistance to prevent floating

.ends INA241A1

* Gain = 20 V/V (Version A2)  
.subckt INA241A2 INN GND1 REF2 GND2 OUT VCC REF1 INP
.param gain=20
VOS INP_INT INP DC {vos_max}
IB1 INP_INT 0 DC {ib_max}  
IB2 INN 0 DC {ib_max}
EREF VREF 0 VALUE={(V(REF1)+V(REF2))/2}
EDIFF VDIFF 0 VALUE={gain*V(INP_INT,INN) + V(VREF)}
RBWL VDIFF VBWL 159.15
CBWL VBWL 0 1p3
GSLEW VBWL VSLEW VALUE={LIMIT((V(VBWL)-V(VSLEW))*1e9, -sr*1e-9, sr*1e-9)}
CSLEW VSLEW 0 1n
EOUT OUT 0 VALUE={LIMIT(V(VSLEW), V(VCC)*vol_sat/vs_nom, V(VCC)-voh_sat)}
RCC VCC 0 1e12
RGND1 GND1 0 1m
RGND2 GND2 0 1m
RREF1 REF1 0 1e12
RREF2 REF2 0 1e12
.ends INA241A2

* Gain = 50 V/V (Version A3)
.subckt INA241A3 INN GND1 REF2 GND2 OUT VCC REF1 INP
.param gain=50
VOS INP_INT INP DC {vos_max}
IB1 INP_INT 0 DC {ib_max}  
IB2 INN 0 DC {ib_max}
EREF VREF 0 VALUE={(V(REF1)+V(REF2))/2}
EDIFF VDIFF 0 VALUE={gain*V(INP_INT,INN) + V(VREF)}
RBWL VDIFF VBWL 159.15
CBWL VBWL 0 1p
GSLEW VBWL VSLEW VALUE={LIMIT((V(VBWL)-V(VSLEW))*1e9, -sr*1e-9, sr*1e-9)}
CSLEW VSLEW 0 1n
EOUT OUT 0 VALUE={LIMIT(V(VSLEW), V(VCC)*vol_sat/vs_nom, V(VCC)-voh_sat)}
RCC VCC 0 1e12
RGND1 GND1 0 1m
RGND2 GND2 0 1m
RREF1 REF1 0 1e12
RREF2 REF2 0 1e12
.ends INA241A3

* Gain = 100 V/V (Version A4)
.subckt INA241A4 INN GND1 REF2 GND2 OUT VCC REF1 INP
.param gain=100
VOS INP_INT INP DC {vos_max}
IB1 INP_INT 0 DC {ib_max}  
IB2 INN 0 DC {ib_max}
EREF VREF 0 VALUE={(V(REF1)+V(REF2))/2}
EDIFF VDIFF 0 VALUE={gain*V(INP_INT,INN) + V(VREF)}
RBWL VDIFF VBWL 159.15
CBWL VBWL 0 1p
GSLEW VBWL VSLEW VALUE={LIMIT((V(VBWL)-V(VSLEW))*1e9, -sr*1e-9, sr*1e-9)}
CSLEW VSLEW 0 1n
EOUT OUT 0 VALUE={LIMIT(V(VSLEW), V(VCC)*vol_sat/vs_nom, V(VCC)-voh_sat)}
RCC VCC 0 1e12
RGND1 GND1 0 1m
RGND2 GND2 0 1m
RREF1 REF1 0 1e12
RREF2 REF2 0 1e12
.ends INA241A4

* Gain = 200 V/V (Version A5)
.subckt INA241A5 INN GND1 REF2 GND2 OUT VCC REF1 INP
.param gain=200
VOS INP_INT INP DC {vos_max}
IB1 INP_INT 0 DC {ib_max}  
IB2 INN 0 DC {ib_max}
EREF VREF 0 VALUE={(V(REF1)+V(REF2))/2}
EDIFF VDIFF 0 VALUE={gain*V(INP_INT,INN) + V(VREF)}
RBWL VDIFF VBWL 159.15
CBWL VBWL 0 1p
GSLEW VBWL VSLEW VALUE={LIMIT((V(VBWL)-V(VSLEW))*1e9, -sr*1e-9, sr*1e-9)}
CSLEW VSLEW 0 1n
EOUT OUT 0 VALUE={LIMIT(V(VSLEW), V(VCC)*vol_sat/vs_nom, V(VCC)-voh_sat)}
RCC VCC 0 1e12
RGND1 GND1 0 1m
RGND2 GND2 0 1m
RREF1 REF1 0 1e12
RREF2 REF2 0 1e12
.ends INA241A5

********** ADDITIONAL FUNCTIONS/MACROS **********
* Enhanced PWM rejection can be modeled with additional filtering if needed
* .subckt PWM_FILTER input output
* * Add complex filtering for PWM rejection simulation
* .ends

********** USAGE NOTES **********
* Pin Configuration (SOT-23-8):
* Pin 1 (-)    : Negative input (current sensing)
* Pin 2 (GND)  : Ground connection
* Pin 3 (REF2) : Reference voltage 2 (for bidirectional operation)
* Pin 4 (GND)  : Ground connection  
* Pin 5 (OUT)  : Output voltage
* Pin 6 (V+)   : Positive supply voltage (2.7V to 5.5V)
* Pin 7 (REF1) : Reference voltage 1 (for bidirectional operation)
* Pin 8 (+)    : Positive input (current sensing)
*
* Key Features Modeled:
* - 1 MHz bandwidth
* - 5 V/µs slew rate
* - 25µV max offset voltage
* - Bidirectional operation with reference centering
* - Supply-dependent output saturation
* - Input bias current effects
*
* For KiCad/ngspice Usage:
* 1. Add this .lib file to your simulation settings
* 2. Use subcircuit names: INA241A1, INA241A2, INA241A3, INA241A4, INA241A5
* 3. Connect both GND pins (2,4) to the same ground net
* 4. Connect REF1 and REF2 to set the zero-current output voltage
* 5. Ensure supply voltage is within 2.7V to 5.5V range
*
.end